US04997836
To a solution of oxalyl chloride (175 mg) in methylene chloride (1 ml) is added dropwise at -78° C. a solution of dimethyl sulfoxide (215 mg) in methylene chloride (1 ml), and the mixture is stirred for 10 minutes. To the reaction mixture is added a solution of 1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl) -4-(3,4,5-trimethoxybenzyl)piperazine-2-methanol (500 mg) in methylene chloride (2 ml), and the mixture is stirred for 10 minutes. To the reaction mixture is added triethylamine (650 mg), then the reaction temperature is raised up to room temperature. To the reaction mixture is then added water, followed by extraction with methylene chloride. The organic layer is washed with water, dried and concentrated under reduced pressure. The concentrate is dissolved in methanol (5 ml). To the mixture are added dimethylamine hydrochloride (200 mg) and sodium cyanoborohydride (130 mg). The reaction mixture is stirred for 48 hours at room temperature and then poured into a 1N NaOH solution, followed by extraction with methylene chloride. The organic layer is washed with water, dried and concentrated under reduced pressure. The concentrate is purified by means of a silica gel column chromatography (eluent:methanol ethyl acetate=15:85) to give 1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl) -2-dimethylaminomethyl-4-(3,4,5-trimethoxybenzyl) piperazine (200 mg). This product is converted to its hydrochloride, followed by recrystallization from ethanol to give colorless prisms, m.p. 167-169° C.

reactant | oxalyl chloride | 175 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 215 mg | CS(=O)C | C2H6OS
reactant | 1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl) -4-(3,4,5-trimethoxybenzyl)piperazine-2-methanol | 500 mg | COC=1C(=CC2=C(C=C(CCC2)C(=O)N2C(CN(CC2)CC2=CC(=C(C(=C2)OC)OC)OC)CO)C1)OC | C29H38N2O7
reactant | triethylamine | 650 mg | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl) -2-dimethylaminomethyl-4-(3,4,5-trimethoxybenzyl) piperazine | 200 mg | COC=1C(=CC2=C(C=C(CCC2)C(=O)N2C(CN(CC2)CC2=CC(=C(C(=C2)OC)OC)OC)CN(C)C)C1)OC | C31H43N3O6
